US06777422B2
A. 1-(2,6-Difluoro-phenyl)-1H-isoquinoline-2-carboxylic acid benzyl ester
A solution of isoquinoline (645 mg; 5 mmol) in THF (20 mL) is treated with benzyl chloroformate (853 mg; 5 mmol) at 0° C., and the mixture stirred at 0° C. for 1 hour. 2,6-Difluorophenyllithium (prepared from 1-bromo-2,6-difluorobenzene (1.37 g; 7.1 mmol) and n-BuLi (2.5M in hexanes, 2.7 mL; 6.8 mmol at -78° C.) are added to this mixture and the resulting solution stirred at 0° C. for 1 hour and then at room temperature for 2 hours. The reaction is quenched with saturated NH4Cl solution, extracted with ether, dried over anhydrous Na2SO4 and concentrated in vacuo. The residue is purified by flash chromatography over silica gel (elution with hexanes/ether 5;1) to give the product as a colorless oil (0.62 g) LC-MS [MH+] 378.2, RT=3.00 min.

reactant | isoquinoline | 5 mmol, 645 mg | C1=NC=CC2=CC=CC=C12 | C9H7N
reactant | benzyl chloroformate | 5 mmol, 853 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 2,6-Difluorophenyllithium | FC1=C(C(=CC=C1)F)[Li]
reactant | 1-bromo-2,6-difluorobenzene | 7.1 mmol, 1.37 g | BrC1=C(C=CC=C1F)F | C6H3BrF2
reactant | n-BuLi | 6.8 mmol, 2.5M, 2.7 mL | [Li]CCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(2,6-Difluoro-phenyl)-1H-isoquinoline-2-carboxylic acid benzyl ester | 0.62 g | C(C1=CC=CC=C1)OC(=O)N1C(C2=CC=CC=C2C=C1)C1=C(C=CC=C1F)F | C23H17F2NO2
